US06060469
e) 5-Amino-7-bromo-2,3-dihydrobenzofuran
7-Bromo-5-nitro-2,3-dihydrobenzofuran (2 g) was suspended in acetic acid (5 ml) and water (12 ml). Iron powder (3.5 g) was added and the mixture was heated at reflux for 3hr. The cooled mixture was cooled and filtered through celite. The filtrate was concentrated and azeotroped with toluene. The residue was purified by chromatography on silica using 10% ethyl acetate in hexane as eluent to afford the title compound (1.3 g) as an oil. 1H NMR (250 MHz, CDCl3) δ 3.22 (2H, t, J=7.5 Hz), 3.38 (2H, br s), 4.58 (2H, t, J=8 Hz), 6.51-6.53 (1H, m), 6.63-6.64 (1H, m).

reactant | 7-Bromo-5-nitro-2,3-dihydrobenzofuran | 2 g | BrC1=CC(=CC=2CCOC21)[N+](=O)[O-] | C8H6BrNO3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 12 ml | O | H2O
catalyst | Iron | 3.5 g | [Fe] | Fe
product | 5-Amino-7-bromo-2,3-dihydrobenzofuran | 1.3 g | NC=1C=C(C2=C(CCO2)C1)Br | C8H8BrNO
